US06969711B2
Preparation of 2-[4-[2-(benzimidazol-2-ylsulfonyl)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide:
To a solution of 1-[2-(benzimidazol-2-ylsulfonyl)ethyl]piperazine (17 mg, 0.058 mmol) in DMF (0.1 ml) were added potassium carbonate (16.0 mg, 0.116 mmol) and 2-bromo-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide (18.6 mg, 0.058 mmol), and the mixture was stirred at room temperature for 6 hours. The reaction solution was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and a saturated sodium chloride solution, dried over anhydrous sodium sulfate and concentrated in vacuo. The resulting residue was purified by a silica gel preparative thin layer chromatography (developing solvent; chloroform:sat. ammonia methanol=5:1) to provide 19.8 mg (yield 64%) of the desired compound as pale yellow oil. IR (neat) cm−1: 3345, 1672, 1565, 1420, 1124. 1H-NMR (CD3OD) δ: 2.43 (3H, s), 2.47 (3H, s), 2.48 (3H, s), 3.00 (2H, br. d, J=12.9 Hz), 3.12 (2H, t, J=10.7 Hz), 3.34 (2H, s), 3.58-3.78 (8H, m), 6.85 (1H, s), 7.12-7.18 (2H, m), 7.43-7.48 (2H, m).

reactant | 1-[2-(benzimidazol-2-ylsulfonyl)ethyl]piperazine | 0.058 mmol, 17 mg | N1=C(NC2=C1C=CC=C2)S(=O)(=O)CCN2CCNCC2 | C13H18N4O2S
reactant | potassium carbonate | 0.116 mmol, 16.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide | 0.058 mmol, 18.6 mg | BrCC(=O)NC=1C(=NC(=CC1SC)C)SC | C10H13BrN2OS2
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-[4-[2-(benzimidazol-2-ylsulfonyl)ethyl]piperazin-1-yl]-N-[2,4-bis(methylthio)-6-methyl-3-pyridyl]acetamide | 19.8 mg, yield 64% | N1=C(NC2=C1C=CC=C2)S(=O)(=O)CCN2CCN(CC2)CC(=O)NC=2C(=NC(=CC2SC)C)SC | C23H30N6O3S3
